US08802661B2
To a solution of (1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-benzyl 5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-9-(((trifluoromethyl)sulfonyl)oxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (3.0 g, 4.43 mmol) in THF (100 mL) was added 1,4-benzenediboronic acid (1.469 g, 8.86 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.259 g, 0.222 mmol). The resulting yellow mixture was purged with N2. Then, a solution of sodium carbonate (2.82 g, 26.6 mmol) in H2O (25.00 mL) was added and the reaction mixture was heated to reflux at 90° C. After 6 h, the reaction mixture was cooled to rt, diluted with EtOAc (50 mL) and washed with H2O (50 mL). The aqueous layer was extracted with EtOAc (2×50 mL). The combined organic layer was filtered through celite pad, washed with brine, dried over MgSO4, filtered and concentrated to afford a light brown solid. The crude material was absorbed onto silica gel (20 g), loaded onto a silica gel column and eluted with 3:1 hexanes:EtOAc to give (4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((benzyloxy)carbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)phenyl)boronic acid (983 mg, 34.2%) as a white solid. 1H NMR (500 MHz, CHLOROFORM-d) δ 8.18-8.14 (m, 2H), 7.43-7.38 (m, 4H), 7.38-7.35 (m, 1H), 7.31-7.29 (m, 1H), 5.37-5.34 (m, 1H), 5.17 (t, J=1.0 Hz, 2H), 4.77 (d, J=1.5 Hz, 1H), 4.64 (s, 1H), 3.08 (td, J=10.8, 4.7 Hz, 1H), 2.35-2.30 (m, 1H), 2.30-2.25 (m, 1H), 2.15 (dd, J=17.1, 6.1 Hz, 1H), 1.98-1.89 (m, 2H), 1.73 (s, 3H), 1.69 (d, J=3.7 Hz, 1H), 1.67-1.64 (m, 1H), 1.56-1.37 (m, 10H), 1.37-1.23 (m, 3H), 1.19 (d, J=13.1 Hz, 1H), 1.07 (dd, J=13.1, 4.3 Hz, 1H), 1.02 (s, 6H), 0.99 (br. s., 3H), 0.99 (br. s., 3H), 0.96-0.93 (m, 1H), 0.87 (s, 3H). 13C NMR (126 MHz, CHLOROFORM-d) δ 175.8, 150.6, 148.41-148.39 (m, 1C), 148.3, 146.8, 136.5, 134.6, 129.7, 128.5, 128.2, 128.1, 123.7, 109.6, 65.7, 56.6, 52.9, 49.6, 49.4, 46.9, 42.4, 41.8, 40.5, 38.4, 37.5, 37.0, 36.3, 33.6, 32.1, 30.6, 29.6, 29.5, 25.7, 21.3, 21.1, 19.8, 19.4, 16.5, 15.6, 14.7.

reactant | (1R,3aS,5aR,5bR,7aR,11aR,11bR,13aR,13bR)-benzyl 5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-9-(((trifluoromethyl)sulfonyl)oxy)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 4.43 mmol, 3.0 g | C[C@]12CC[C@@]3([C@@H]([C@H]2CC[C@@H]2[C@]4(CC=C(C([C@@H]4CC[C@@]12C)(C)C)OS(=O)(=O)C(F)(F)F)C)[C@@H](CC3)C(=C)C)C(=O)OCC3=CC=CC=C3 | C38H51F3O5S
reactant | 1,4-benzenediboronic acid | 8.86 mmol, 1.469 g | C1(=CC=C(C=C1)B(O)O)B(O)O | C6H8B2O4
reactant | sodium carbonate | 26.6 mmol, 2.82 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | H2O | 25.00 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.222 mmol, 0.259 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((benzyloxy)carbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)phenyl)boronic acid | 983 mg, 34.2% | C(C1=CC=CC=C1)OC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C=C1)B(O)O)C)[C@@H](CC2)C(=C)C | C43H57BO4
